US05071994
Synthesis of Compound (33), 4-chloromethyl-5-phenyl-2-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one
After mixing 270 g (0.762) of 5-phenyl-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one prepared in the above step, 800 ml of 1,2-dichloroethane, 125 g of zinc chloride, 103 g of paraformaldehyde, and 20 ml of sulfuric acid, the reaction was performed for 1.5 hours in a steam bath while blowing hydrogen chloride gas in the reaction system. During the reaction, crystals deposited. After cooling, water was added to the reaction mixture and crystals formed were recovered by filtration, washed with water, and dried to provide 270 g of the desired product with a yield of 88%. The melting point thereof was 190° C. to 191° C.

reactant | 5-phenyl-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one | 270 g | C1(=CC=CC=C1)C1=CC(N(O1)C1=C(C=C(C=C1)C(=O)OCC)[N+](=O)[O-])=O | C18H14N2O6
reactant | paraformaldehyde | 103 g | C=O | CH2O
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen chloride | Cl | ClH
reactant | 1,2-dichloroethane | 800 ml | ClCCCl | C2H4Cl2
catalyst | zinc chloride | 125 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 4-chloromethyl-5-phenyl-2-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one | 270 g, yield of 88% | ClCC=1C(N(OC1C1=CC=CC=C1)C1=C(C=C(C=C1)C(=O)OCC)[N+](=O)[O-])=O | C19H15ClN2O6
